data/mechanisms/records/IMS4-EQ4.9.json
{"mechanism_id": "IMS4-EQ4.9", "species": [{"species_id": "n_methylethylamine_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][NH+:3][CH3:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyleneiminium_ion", "mapped_smiles": "[CH2:2]=[NH+:3][CH3:4]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["n_methylethylamine_radical_cation"]}, {"state_id": "state_products", "species_ids": ["methyleneiminium_ion", "methyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 57, "equation": "4.9", "section": "4.6 Radical-site initiation (alpha-cleavage)"}, "confidence": 0.9, "curator_note": "Generic scheme R-CR2-YR(+.) -> R. + CR2=YR(+), reaction arrow labelled alpha. Book draws 2 arc(s); moves <1,2> are drawn (the odd electron on Y into the forming C=Y bond, and one electron of the R-CR2 sigma bond into that same bond), move <3> is an implicit homolysis hook required for electron balance (not drawn on the page; the book simply writes R. as a product). Instantiated by the curator as Y = NH, R = CH3 (N-methylethylamine molecular ion, n-ionized at nitrogen -- the site the book ranks highest for radical-site initiation: N > S, O, pi, R. > Cl, Br > H). The page prints no m/z, no intensity and no specific compound for this scheme."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 59.073, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_iminium", "species_id": "methyleneiminium_ion", "step_id": "step_alpha_cleavage", "observed_mz": 44.0495, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-23T00:00:00Z", "modified_at": "2026-07-23T00:00:00Z"}}
